US06103708
(2-n-Butyl-benzofuran-3-yl)-(2'-hydroxy-[1,1';3',1"]terphenyl-5'-yl)-methanone
At ambient temperature, to a stirred solution of (2-n-butyl-benzofuran-3-yl)-(2'-[(2-methoxyethoxy)methoxy]-[1,1';3',1"]terphenyl-5'-yl)-methanone (0.371 g, 0.695 mmol) in CH2Cl2 (3.71 mL) was added trifluoroacetic acid (3.71 mL). After 0.5 h, the reaction was diluted with ether (50 mL), washed with H2O (3×), dried (MgSO4) and concentrated. The crude product was purified on Biotage KP-Sil eluting with 10% acetone/hexane to give 0.281 g (90%) of the title compound. 1H NMR (DMSO-d6) δ 0.77 (t, 3 H), 1.22 (sextet, 2 H), 1.64 (quintet, 2 H), 2.87 (t, 2 H), 7.29-7.65 (m, 14 H), 7.66 (s, 2 H), 9.39 (s, 1 H).

reactant | (2-n-butyl-benzofuran-3-yl)-(2'-[(2-methoxyethoxy)methoxy]-[1,1';3',1"]terphenyl-5'-yl)-methanone | 0.695 mmol, 0.371 g | C(CCC)C=1OC2=C(C1C(=O)C=1C=C(C(=C(C1)C1=CC=CC=C1)OCOCCOC)C1=CC=CC=C1)C=CC=C2 | C35H34O5
reactant | trifluoroacetic acid | 3.71 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 3.71 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 50 mL | CCOCC | C4H10O
product | (2-n-Butyl-benzofuran-3-yl)-(2'-hydroxy-[1,1';3',1"]terphenyl-5'-yl)-methanone | 0.281 g, 90% | C(CCC)C=1OC2=C(C1C(=O)C=1C=C(C(=C(C1)C1=CC=CC=C1)O)C1=CC=CC=C1)C=CC=C2 | C31H26O3
